US05039675
6-[2-(3-phthalimidopropyl)-1H-benzimidazol-5yl]-4,5-dihydro -5-methyl-3(2H)-pyridazinone
14.1 g (32.5 mmol) of 6-[3-amino-4-[[4-(phthalimido) butyryl]amino]phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone are boiled under reflux in 100 ml of glacial acetic acid for 2 hours. The solution is concentrated by extensive evaporation under vacuum and 200 ml of ethanol are added to the residue. After 30 minutes stirring at room temperature, the reaction mixture is cooled to 5° C. and the resulting precipitate is suction filtered. 7.7 g (57%) of a solid melting at 260° to 261° C. are obtained.

reactant | 6-[3-amino-4-[[4-(phthalimido) butyryl]amino]phenyl]-4,5-dihydro-5-methyl-3(2H)-pyridazinone | 32.5 mmol, 14.1 g | NC=1C=C(C=CC1NC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)=O)C=2C(CC(NN2)=O)C | C23H23N5O4
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 6-[2-(3-phthalimidopropyl)-1H-benzimidazol-5yl]-4,5-dihydro -5-methyl-3(2H)-pyridazinone | 7.7 g, 57% | C1(C=2C(C(N1CCCC1=NC3=C(N1)C=CC(=C3)C=3C(CC(NN3)=O)C)=O)=CC=CC2)=O | C23H21N5O3
